US06235731B1
2) Synthesis of N-[4-(4-phenyl-1-piperazinyl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride
To a solution of 1.37 g (3.16 mM) of N-[4-(4-phenyl-1-piperazinyl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (20 ml) was added 10 ml (40 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for 3 hours (crystals separated out). After the solvent was distilled off under reduced pressure, ethanol and diethyl ether were added to the residue and the resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[4-(4-phenyl-1-piperazinyl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 3.16 mM, 1.37 g | C1(=CC=CC=C1)N1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H27N5OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[4-(4-phenyl-1-piperazinyl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride | Cl.Cl.Cl.C1(=CC=CC=C1)N1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H27N5OS.3ClH/c30-24(21-17-20-18-26-22-9-6-10-23(31-21)29(20)22)25-11-4-5-12-27-13-15-28(16-14-27)19-7-2-1-3-8-19;;;/h1-3,6-10,17-18H,4-5,11-16H2,(H,25,30);3*1H
